US04481142
9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 90.5 g (0.25 mol) of 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepine-5-one, 100 g (0.96 mol) of formamidine acetate and 1.0 L of formamide was heated on a steam bath for 16 hr. The mixture was cooled to 0° and the resulting precipitate collected by filtration. The precipitate was washed with water and dried to constant weight to give off-white crystals, mp 120°-121° C.

reactant | 8-chloro-1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepine-5-one | 0.25 mol, 90.5 g | ClC1=CC2=C(C(C(CN=C2C2=C(C=CC=C2)Cl)=CN(C)C)=O)C=C1 | C19H16Cl2N2O
reactant | formamidine acetate | 0.96 mol, 100 g | C(C)(=O)O.C(=N)N
reactant | formamide | 1.0 L | C(=O)N | CH3NO
product | 9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H11Cl2N3
